US04806488
Preparation of Squarate Dye-Digoxin Conjugate
To 25 mg (0.05 mmol) of DCAS bis-hydrazide prepared as described in Example 6 and 78 mg (0.10 mmol) of digoxin dialdehyde prepared as above was added 2 ml of dry dimethylformamide and 17 μl (0.10 mmol) of N,N-diisopropylethylamine. The reaction was stirred at room temperature under nitrogen for 48 hours, during which time a new product formed. By thin layer chromatography, using chloroform-methanol (9:1, v/v) as developing solvent; this product had Rf 0.45 and was blue-green in color. The reaction mixture was evaporated to dryness by rotary evaporation and purified by preparative thin layer chromatography on two 20×20 cm silica gel type GF preparative plates, using chloroform-methanol (9:1, v/v) as developing solvent. The band corresponding to the produce at Rf 0.45 was scraped off the plate and eluted from the silica gel with methanol. Evaporation of methanol yielded a dark greenish-blue solid product.

reactant | digoxin dialdehyde | 0.10 mmol, 78 mg | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2CC[C@]3([C@@H](C2)CC[C@@H]4[C@@H]3C[C@H]([C@]5([C@@]4(CC[C@@H]5C6=CC(=O)OC6)O)C)O)C)O)O[C@H]7C[C@@H]([C@@H]([C@H](O7)C)OC(CC=O)OC(C)C=O)O | C41H62O14
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 0.10 mmol, 17 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | Digoxin | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@@H]2[C@H](O[C@H](C[C@@H]2O)O[C@@H]3[C@H](O[C@H](C[C@@H]3O)O[C@H]4CC[C@]5([C@@H](C4)CC[C@@H]6[C@@H]5C[C@H]([C@]7([C@@]6(CC[C@@H]7C8=CC(=O)OC8)O)C)O)C)C)C)O)O | C41H64O14
